US07714126B2
Preparation of 1-(5-nitro-pyridin-2-yl)-azetidin-3-ol
2-Bromo-5-nitropyridine (406 mg, 2 mmol), 3-hydroxyazetidine hydrochloride (199 mg, 2 mmol), and finely ground potassium carbonate (828 mg, 6 mmol) were heated to 80° C. in 20 mL anhydrous DMF for 5 hrs. The mixture was diluted with EtOAc, extracted with H2O and dried over MgSO4. The EtOAc layer was filtered, evaporated to dryness and used without further purification. ES-MS calcd for C8H9N3O3 (m/e) 195.18, obsd 196.2 (M+H).

reactant | 2-Bromo-5-nitropyridine | 2 mmol, 406 mg | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 3-hydroxyazetidine hydrochloride | 2 mmol, 199 mg | Cl.OC1CNC1
reactant | potassium carbonate | 6 mmol, 828 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(5-nitro-pyridin-2-yl)-azetidin-3-ol | [N+](=O)([O-])C=1C=CC(=NC1)N1CC(C1)O | C8H9N3O3
